US07781428B2
methyl 3-(4-fluorobenzylidene)-4-oxochroman-7-carboxylate
The title compound was prepared from methyl 4-oxochroman-7-carboxylate (Koch, K., and Biggers, M. S. J. Org. Chem. 1994, 59, 1216-1218) and 4-fluorobenzaldehyde according to Method A2 using methanol and 4 N Hydrogen chloride/dioxane. Off-white solid (76% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.88 (s, 3H), 5.48 (s, 1H), 7.35 (t, J=8.59 Hz, 2H), 7.50-7.61 (m, 3H), 7.66 (d, J=7.25 Hz, 1H), 7.80 (s, 1H), 8.01 (d, J=8.06 Hz, 1H).

reactant | methyl 4-oxochroman-7-carboxylate | O=C1CCOC2=CC(=CC=C12)C(=O)OC | C11H10O4
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Hydrogen chloride dioxane | 4 N | Cl.O1CCOCC1
solvent | methanol | CO | CH4O
product | methyl 3-(4-fluorobenzylidene)-4-oxochroman-7-carboxylate | FC1=CC=C(C=C2COC3=CC(=CC=C3C2=O)C(=O)OC)C=C1 | C18H13FO4
